US08377970B2
N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylthiazole-5-carboxamide hydrochloride
Following the general procedure-1, N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylthiazole-5-carboxamide (55 mg) was prepared from 4-methylthiazole-5-carboxylic acid (130 mg, 0.83 mmol) and intermediate 30 (200 mg, 0.83 mmol) as a brown solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (50 mg) as an off-white solid. M.P. 93-98° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.57 (s, 1H), 9.16 (s, 1H), 8.74 (s, 1H), 8.23 (dd, J 2.4, 8.9, 1H), 7.73 (d, J 8.9, 1H), 5.82 (s, 1H), 2.70-2.60 (m, 4H), 1.88-1.80 (m, 1H), 0.93-0.81 (m, 4H), 0.69-0.58 (m, 4H). MS (m/z): 366.36 [M+H—HCl]+.

reactant | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylthiazole-5-carboxamide | 55 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(=O)C1=C(N=CS1)C | C19H19N5OS
reactant | 4-methylthiazole-5-carboxylic acid | 0.83 mmol, 130 mg | CC=1N=CSC1C(=O)O | C5H5NO2S
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylthiazole-5-carboxamide hydrochloride | 50 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(=O)C1=C(N=CS1)C | InChI=1S/C19H19N5OS.ClH/c1-11-18(26-10-21-11)19(25)22-14-6-7-17(20-9-14)24-16(13-4-5-13)8-15(23-24)12-2-3-12;/h6-10,12-13H,2-5H2,1H3,(H,22,25);1H
